US07687627B2
(S)-N-{3-[4-(1-oxa-2-carboethoxy-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was prepared by reacting (S)-N-[3-{4-[4-carboethoxymethylidenepiperidin-1-yl]-3-fluorophenyl}-2-oxo-1,3-oxazolidin-5-ylmethyl]-acetamide (0.3 mmol) and m-chloroperbenzoic acid (0.31 mmol) in dichloromethane at a temperature 0° C. for 14 hours in 37% yield.

reactant | (S)-N-[3-{4-[4-carboethoxymethylidenepiperidin-1-yl]-3-fluorophenyl}-2-oxo-1,3-oxazolidin-5-ylmethyl]-acetamide | 0.3 mmol | C(=O)(OCC)C=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C21H26FN3O5
reactant | m-chloroperbenzoic acid | 0.31 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | dichloromethane | ClCCl | CH2Cl2
product | (S)-N-{3-[4-(1-oxa-2-carboethoxy-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 37% yield | C(=O)(OOC)C1CC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O)F | C21H26FN3O6
